US09382188B2
C) 5-bromo-2-methoxy-3-neopentylpyridine
To a solution of 2-methoxy-3-neopentylpyridine (4.22 g) in THF (40 mL) was added N-bromosuccinimide (6.29 g) at room temperature, and the mixture was stirred at 100° C. for 20 min. Water was added to the reaction mixture at room temperature, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, hexane) to give the title compound (4.38 g) as a pale-yellow oil.

reactant | 2-methoxy-3-neopentylpyridine | 4.22 g | COC1=NC=CC=C1CC(C)(C)C | C11H17NO
reactant | N-bromosuccinimide | 6.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-methoxy-3-neopentylpyridine | 4.38 g | BrC=1C=C(C(=NC1)OC)CC(C)(C)C | C11H16BrNO
